US08003006B2
(3-10) Synthesis of 4-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorophenol
3 g of 1-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorobenzene was dissolved in 30 mL of THF, and 11.7 mL of sec-butyllithium (1.01 M cyclohexane, a hexane solution) was added dropwise thereto at an internal temperature of −40 to −60° C. Then, the solution was stirred for 30 min. To this solution, 1.3 g of trimethyl borate was added, and the solution was heated to room temperature. Then, 1.8 mL of 30% hydrogen peroxide solution was added thereto, and the solution was stirred at 40° C. for 1 hours. To the solution, 5% hydrochloric acid was added, and the solution was stirred for 1 hour. Toluene was added thereto, and the organic layer was fractioned, washed with saturated saline, and then dried over anhydrous magnesium sulfate, to thereby obtain 4-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorophenol.

reactant | 1-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorobenzene | 3 g | C(CC=C)[C@@H]1CC[C@H](CC1)COC1=C(C(=CC=C1)F)F | C17H22F2O
reactant | sec-butyllithium | 11.7 mL | C(C)(CC)[Li]
reactant | trimethyl borate | 1.3 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 1.8 mL | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | 1.01 M | C1CCCCC1 | C6H12
product | 4-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorophenol | C(CC=C)[C@@H]1CC[C@H](CC1)COC1=C(C(=C(C=C1)O)F)F | C17H22F2O2
